US05763599
For 6 min, conc. HNO3 (4.8 ml, 65%, d=1.4) was added dropwise to a mixture of homoveratryl alcohol (3.02 g, 16.6 mmol) in glacial acetic acid (30 ml) under stirring, this mixture having been cooled to -10° C. (common salt/ice) It was then allowed to warm up to 23° C. in 30 min. After being stirred for 1 h at this temperature, the mixture was diluted with H2O, neutralized with NaHCO3 and extracted with EtOAc (3×30 ml). The combined organic phases were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue (3.25 g) was purified by column chromatography (90 g SiO2 toluene/EtOAc 4:1 500 ml, toluene/EtOAc 3:1 400 ml, toluene/EtOAc 2:1 300 ml). 2-(4,5-dimethoxy-2-nitrophenyl)ethanol (2.13 g, 56%) was obtained as a yellow solid.

reactant | HNO3 | 4.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | homoveratryl alcohol | 16.6 mmol, 3.02 g | C(CC1=CC(OC)=C(OC)C=C1)O | C10H14O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
product | 2-(4,5-dimethoxy-2-nitrophenyl)ethanol | 2.13 g, 56% | COC1=CC(=C(C=C1OC)CCO)[N+](=O)[O-] | C10H13NO5
